US06608059B1
a) 5-(2,6-Dichlorobenzyloxy)-1H-indole
To a solution of 5-hydroxyindole (5.0 g, 37.6 mmol) in dimethylformamide (200 mL) at room temperature was added cesium carbonate (18.4 g, 56.3 mmol). The reaction mixture was stirred at 60° C. for 30 min followed by the addition of 2,6-dichlorobenzyl bromide (9.0 g, 37.6 mmol). After stirring at 60° C. for 16 h, the reaction solution was partitioned between ethyl acetate and water. The organic layer was washed with brine and dried (Na2SO4). Purification by flash column chromatography (silica gel, hexane/ethyl acetate) yielded a clear oil (8.05 g, 73%). MS(ES) m/e 292.0 [M+H]+.

reactant | 5-hydroxyindole | 37.6 mmol, 5.0 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | cesium carbonate | 56.3 mmol, 18.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,6-dichlorobenzyl bromide | 37.6 mmol, 9.0 g | ClC1=C(CBr)C(=CC=C1)Cl | C7H5BrCl2
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 5-(2,6-Dichlorobenzyloxy)-1H-indole | 8.05 g, 73% | ClC1=C(COC=2C=C3C=CNC3=CC2)C(=CC=C1)Cl | C15H11Cl2NO
